US07524846B2
1-[1-[4-(benzyloxy)-3-chlorophenyl]-2-(4-methoxypiperidin-1-yl)ethyl]cyclohexanol ydrochloride
In an analogous manner to Example 1, step 2, 1-[1-[4-(benzyloxy)-3-chlorophenyl]-2-(4-methoxypiperidin-1-yl)ethyl]cyclohexanol hydrochloride was prepared from 1-[1-[4-(benzyloxy)-3-chlorophenyl]-2-(4-methoxypiperidin-1-yl)-2-oxoethyl]cyclohexanol. HRMS: calcd for C27H36ClNO3+H+, 458.24565; found (ESI, [M+H]+), 458.2443.

reactant | 1-[1-[4-(benzyloxy)-3-chlorophenyl]-2-(4-methoxypiperidin-1-yl)ethyl]cyclohexanol hydrochloride | Cl.C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CN1CCC(CC1)OC)C1(CCCCC1)O)Cl
reactant | 1-[1-[4-(benzyloxy)-3-chlorophenyl]-2-(4-methoxypiperidin-1-yl)-2-oxoethyl]cyclohexanol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C(=O)N1CCC(CC1)OC)C1(CCCCC1)O)Cl | C27H34ClNO4
product | 1-[1-[4-(benzyloxy)-3-chlorophenyl]-2-(4-methoxypiperidin-1-yl)ethyl]cyclohexanol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CN1CCC(CC1)OC)C1(CCCCC1)O)Cl | C27H36ClNO3
